US07456164B2
Intermediate 29: 4-aminomethyl-4-[4-(3-pyrrolidin-1-yl-propoxy)-phenyl]-cyclohexanol
To a stirred suspension of LiAlH4 (0.59 g, 15 mmol, 10 eq) in diethyl ether (8 mL) was added dropwise at ambient temperature a solution of 4-oxo-1-[4-(3-pyrrolidin-1-ylpropoxy)-phenyl]-cyclohexanecarbonitrile (0.5 g, 1.5 mmol) in diethyl ether (25 mL). The reaction mixture was heated to reflux for 2 h. The reaction mixture was cooled to 0° C. and, successively, a solution of water, sodium hydroxide (15% w/v, 0.68 mL) and water again were carefully added dropwise. After being stirred for 15 min at room temperature, the mixture was filtered over diatomaceous earth and concentrated. The residue was purified by flash chromatography (10 g silica gel, DCM/MeOH (10% NH3) to provide the title compound (0.27 g, 54%) as an oil.

reactant | LiAlH4 | 15 mmol, 0.59 g, 10 eq | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 4-oxo-1-[4-(3-pyrrolidin-1-ylpropoxy)-phenyl]-cyclohexanecarbonitrile | 1.5 mmol, 0.5 g | O=C1CCC(CC1)(C#N)C1=CC=C(C=C1)OCCCN1CCCC1 | C20H26N2O2
reactant | water | O | H2O
reactant | sodium hydroxide | 0.68 mL | [OH-].[Na+]
solvent | diethyl ether | 8 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 25 mL | C(C)OCC | C4H10O
product | 4-aminomethyl-4-[4-(3-pyrrolidin-1-yl-propoxy)-phenyl]-cyclohexanol | 0.27 g, 54% | NCC1(CCC(CC1)O)C1=CC=C(C=C1)OCCCN1CCCC1 | C20H32N2O2
